US06576752B1
Synthesis of 11-(4,4′-dimethoxytrityloxy)-3,6,9-trioxaundecanol (4)
Tetraethyleneglycol (14.0 g, 72 mmol) was coevaporated with dry pyridine (2×50 mL), dissolved in dry dioxane and 4,4′-dimethoxytrityl chloride (8.0 g, 23.6 mmol) was added portion-wise to the stirred solution. The reaction was monitored by TLC. After overnight stirring at ambient temperature, the reaction mixture was evaporated and dissolved in CH2Cl2 (200 mL), and washed with saturated aq. NaHCO3 (3×100 mL) and brine (100 mL). The organic phase was dried over Na2SO4 and concentrated. Purification on silica gel column using a stepwise gradient of MeOH (0 to 10%) in H2Cm2 containing 0.2% pyridine yielded 8.5 g (73%) of the title compound.

reactant | Tetraethyleneglycol | 72 mmol, 14.0 g | C(COCCOCCOCCO)O | C8H18O5
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
reactant | 4,4′-dimethoxytrityl chloride | 23.6 mmol, 8.0 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 11-(4,4′-dimethoxytrityloxy)-3,6,9-trioxaundecanol | 8.5 g, 73% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCCOCCOCCOCCO)C=C1 | C29H36O7
